US06159990
a. 3 -(4-Cyano-4-phenylpiperidin-1-yl)(2-fluoropropyl)phthalimide
A mixture of 3-(4-cyano-4-phenylpiperidin-1-yl)-(2-hydroxypropyl)phthalimide (2.60 g, 6.1 mmol) and diethylaminosulfur trifluoride (DAST, 1.96 g, 12.2 mmol) in benzene (100 mL) was stirred and heated at 70° C. under argon atmosphere for 24 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using chloroform-methanol-2M ammonia in methanol (1000/28/14) as the eluent, to obtain the desired product as a viscous oil (1.30 g, 50%).

reactant | 3-(4-cyano-4-phenylpiperidin-1-yl)-(2-hydroxypropyl)phthalimide | 6.1 mmol, 2.60 g | C(#N)C1(CCN(CC1)C1=C2C(C(=O)NC2=O)=CC=C1CC(C)O)C1=CC=CC=C1 | C23H23N3O3
reactant | diethylaminosulfur trifluoride | 12.2 mmol, 1.96 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 3 -(4-Cyano-4-phenylpiperidin-1-yl)(2-fluoropropyl)phthalimide | 1.30 g, 50% | C(#N)C1(CCN(CC1)C1=C2C(C(=O)NC2=O)=CC=C1CC(C)F)C1=CC=CC=C1 | C23H22FN3O2
